US08431575B2
3-Butyl-4-(4-cyclohexyloxy-3-methoxy-phenyl)-6-(1-methyl-piperidin-4-yloxy)-pyridazine dihydrochloride
To a solution of 4-[3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-2-methoxy-phenol (1.0 mmol, 371 mg) in dry THF (3.0 mL) was added cyclohexanol (3.0 mmol, 317 μL) and triphenylphosphine (3.0 mmol, 787 mg). While sonicating, diisopropyl azodicarboxylate (3.0 mmol, 591 μL) was added. And the mixture was sonicated for another 1 hour then condensed. The residue was purified by silica gel chromatography (DCM to DCM+10% MeOH) to afford a colorless sticky solid, which was dissolved in DCM (5.0 mL), 2N HCl in ether (5.0 mL) was added, condensed, triturated with hexanes to provide the title compound (332 mg). LCMS: m/z 455 [M+1]. 1H NMR (400 MHz, CD3OD): δ 7.09 (1H, d), 6.98-7.03 (2H, m), 6.90-6.93 (1H, m), 5.45 (1H, bs), 4.30-4.38 (1H, m), 3.85 (3H, s), 3.10-3.37 (4H, m), 2.90-2.96 (2H, m), 2.79 (3H, s), 2.10-2.35 (4H, m), 1.96-2.03 (2H, m), 1.80-1.87 (2H, m), 1.31-1.63 (8H, m), 1.20-1.29 (2H, m), 0.80 (3H, t).

reactant | 4-[3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-2-methoxy-phenol | 1.0 mmol, 371 mg | C(CCC)C=1N=NC(=CC1C1=CC(=C(C=C1)O)OC)OC1CCN(CC1)C | C21H29N3O3
reactant | cyclohexanol | 3.0 mmol, 317 μL | C1(CCCCC1)O | C6H12O
reactant | triphenylphosphine | 3.0 mmol, 787 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 3.0 mmol, 591 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | HCl | 2N | Cl | ClH
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 5.0 mL | CCOCC | C4H10O
product | 3-Butyl-4-(4-cyclohexyloxy-3-methoxy-phenyl)-6-(1-methyl-piperidin-4-yloxy)-pyridazine dihydrochloride | 332 mg | Cl.Cl.C(CCC)C=1N=NC(=CC1C1=CC(=C(C=C1)OC1CCCCC1)OC)OC1CCN(CC1)C | InChI=1S/C27H39N3O3.2ClH/c1-4-5-11-24-23(19-27(29-28-24)33-22-14-16-30(2)17-15-22)20-12-13-25(26(18-20)31-3)32-21-9-7-6-8-10-21;;/h12-13,18-19,21-22H,4-11,14-17H2,1-3H3;2*1H
